US06537948B1
A mixture of 6-chloro-2-(methoxycarbonyl)methoxy-3-nitropyridine, platinum oxide and ethanol is stirred for 3 hours at room temperature under hydrogen atmosphere. The reaction system is purged with nitrogen, then, the reaction solution is filtrated through Celite, and the filtrate is concentrated. The residue is subjected to silica gel column chromatography to obtain 3-amino-6-chloro-2-(methoxycarbonyl)methoxypyridine.

reactant | 6-chloro-2-(methoxycarbonyl)methoxy-3-nitropyridine | ClC1=CC=C(C(=N1)OCC(=O)OC)[N+](=O)[O-] | C8H7ClN2O5
catalyst | platinum oxide | [Pt]=O
solvent | ethanol | C(C)O | C2H6O
product | 3-amino-6-chloro-2-(methoxycarbonyl)methoxypyridine | NC=1C(=NC(=CC1)Cl)OCC(=O)OC | C8H9ClN2O3
